US05286750
Methyl 2-(p-acetoxyphenyl)-3-methoxyacrylate (Table 3, Number 22)
3 g (10.5 mmol) of methyl 2-(p-bromomethylphenyl)-3-methoxyacrylate (prepared similarly to EP 226 917), 1.1 g (11.2 mmol) of potassium acetate and 50 mg of potassium iodide in 70 ml of N-methylpyrrolidone are stirred for 3 hours at 70°-80° C. The reaction mixture is diluted with water and extracted three times with ether. The combined ether phases are washed with water, dried over MgSO4 and evaporated down. Purification of the residue by column chromatography gives 2.3 g (8.7 mmol, 83%) of the title compound as colorless crystals (mp.= 69°-70° C.).

reactant | methyl 2-(p-bromomethylphenyl)-3-methoxyacrylate | 10.5 mmol, 3 g | BrCC1=CC=C(C=C1)C(C(=O)OC)=COC | C12H13BrO3
reactant | potassium acetate | 11.2 mmol, 1.1 g | C(C)(=O)[O-].[K+]
solvent | N-methylpyrrolidone | 70 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
catalyst | potassium iodide | 50 mg | [I-].[K+]
product | Methyl 2-(p-acetoxyphenyl)-3-methoxyacrylate | 8.7 mmol, 2.3 g, 83% | C(C)(=O)OC1=CC=C(C=C1)C(C(=O)OC)=COC | C13H14O5
